US06028084
A) Methyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylpyrazole-3-carboxylate
19.54 g of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylpyrazole-3-carboxylic acid are dissolved in 350 ml of MeOH, 0.97 g of paratoluenesulfonic acid is added and the mixture is then refluxed for 18 hours. After evaporation of the solvent, the residue is taken up with AcOEt and washed with saturated NaHCO3 solution and then with saturated NaCl solution. It is dried over MgSO4, the insoluble material is filtered off and the filtrate is then concentrated to dryness to give 18.53 g of the expected compound, m.p.=133° C.

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylpyrazole-3-carboxylic acid | 19.54 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)O)C | C17H11Cl3N2O2
reactant | MeOH | 350 ml | CO | CH4O
product | Methyl 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-4-methylpyrazole-3-carboxylate | 18.53 g | ClC1=CC=C(C=C1)C1=C(C(=NN1C1=C(C=C(C=C1)Cl)Cl)C(=O)OC)C | C18H13Cl3N2O2
